US07262185B2
To 2-hydroxymethyl-1-isobutylimidazole (2.40 g) was added thionyl chloride (24 ml) at 0° C., and the mixture was heated for 30 minutes under nitrogen atmosphere at 90° C. The mixture was allowed to be at room temperature. The solvent was distilled off under reduced pressure and the obtained residue was recrystallized from methanol-ethyl acetate, to give 2-chloromethyl-1-isobutylimidazole hydrochloride (2.17 g) as brown crystals.

reactant | 2-hydroxymethyl-1-isobutylimidazole | 2.40 g | OCC=1N(C=CN1)CC(C)C | C8H14N2O
reactant | thionyl chloride | 24 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloromethyl-1-isobutylimidazole hydrochloride | 2.17 g | Cl.ClCC=1N(C=CN1)CC(C)C | InChI=1S/C8H13ClN2.ClH/c1-7(2)6-11-4-3-10-8(11)5-9;/h3-4,7H,5-6H2,1-2H3;1H
